US04242507
In benzene (100 ml) are dissolved 1-hydroxy-6-vinyl-1,2,3-benzotriazole (8.0 g) and triethylamine (5 g) under stirring and thereto is added dropwise a solution of p-chlorobenzenesulfonyl chloride (10.6 g) in benzene (100 ml) under cooling to 10° C. The mixture is stirred at room temperature for 3 hours. The reaction mixture is poured onto ice-water (200 ml) and then extracted with ethyl acetate (150 ml, twice). The combined extracts are washed with water, dried over anhydrous magnesium sulfate, treated with charcoal and then concentrated till about 30 ml. To the mixture is added n-hexane and the mixture is allowed to stand at a cooled place. The precipitated crystals are separated by filtration to give 1-(p-chlorobenzenesulfonyloxy)6-vinyl-1,2,3-benzotriazole (13.9 g), melting point: 125° C. The filtrate is further concentrated and the resulting residue is dissolved in ethyl acetate (10 ml). To the solution is added n-hexane and the mixture is allowed to stand at a cooled place to give additionally the desired product (1.0 g).

reactant | 1-hydroxy-6-vinyl-1,2,3-benzotriazole | 8.0 g | ON1N=NC2=C1C=C(C=C2)C=C | C8H7N3O
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 10.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-chlorobenzenesulfonyloxy)6-vinyl-1,2,3-benzotriazole | 13.9 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)C=C | C14H10ClN3O3S
